US07692005B2
2-Methyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 2-Methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 50 mg, 0.129 mmol) and THF (1 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (50.53 mg, 0.264 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The crude residue was dissolved in EtOAc. The resulting solution was diluted with Hexanes to initiate the precipitation of the product. The solid precipitate that formed was filtered then washed with ˜1 mL of i-prOH yielding 32% (45 mg, 0.076 mmol) of the title compound.

reactant | 2-Methyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.129 mmol, 50 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1)C)=O | C21H16N4O4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.264 mmol, 50.53 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-Methyl-2H-pyrazole-3-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.076 mmol, 45 mg, 32% | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=CC1)C)=O | C32H31N7O3
